### PR TITLE
[Merged by Bors] - feat(SimpleGraph): redefine `cycleGraph` independent of `circulantGraph`

### PR DESCRIPTION
**Pull request by vlad902**
Right now the `cycleGraph` definition relies on `circulantGraph` which requires importing Group definitions from the algebra hierarchy. This causes large-imports for me in later PRs where I try to make more widespread use of cycleGraphs, so here I redefine it to be its own independent object, and leave moving it from `Circulant.lean` to another PR (this is parallel to #35084.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 1]
```diff
@@ -83,14 +87,11 @@ theorem cycleGraph_three_eq_top : cycleGraph 3 = ⊤ := by
...
-  rw [cycleGraph_one_eq_bot]
-  exact id
+  simp [cycleGraph_one_eq_bot]
 
 theorem cycleGraph_adj {n : ℕ} {u v : Fin (n + 2)} :
     (cycleGraph (n + 2)).Adj u v ↔ u - v = 1 ∨ v - u = 1 := by
-  simp only [cycleGraph, circulantGraph_adj, Set.mem_singleton_iff, and_iff_right_iff_imp]
-  intro _ _
-  simp_all
+  simp [cycleGraph]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]: Does `rfl` work?

**Review by SnirBroshi — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean (hunk 1 above)
Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Circulant.lean]: Yes, thanks!

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 2]
```diff
@@ -83,14 +87,10 @@ theorem cycleGraph_three_eq_top : cycleGraph 3 = ⊤ := by
...
-  rw [cycleGraph_one_eq_bot]
-  exact id
+  simp [cycleGraph_one_eq_bot]
 
 theorem cycleGraph_adj {n : ℕ} {u v : Fin (n + 2)} :
-    (cycleGraph (n + 2)).Adj u v ↔ u - v = 1 ∨ v - u = 1 := by
-  simp only [cycleGraph, circulantGraph_adj, Set.mem_singleton_iff, and_iff_right_iff_imp]
-  intro _ _
-  simp_all
+    (cycleGraph (n + 2)).Adj u v ↔ u - v = 1 ∨ v - u = 1 := Iff.rfl
```
Comment (vihdzp) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean:98]:
```suggestion
    (cycleGraph (n + 2)).Adj u v ↔ u - v = 1 ∨ v - u = 1 := .rfl
```

**Review by vihdzp — APPROVED** [review]
Otherwise LGTM, I'm glad this is a simple change!

**Review by YaelDillies — APPROVED** [review]
Looks good, but is @**Bhavik Mehta** happy with it?

maintainer merge?

**Review by b-mehta — COMMENTED** [review]
I did like the definition of cycleGraph in terms of circulantGraph, but I accept the motivation here. Can we keep the equality `cycleGraph (n + 1) = circulantGraph {1}` as a lemma though (even if it's not defeq any more)

**Comment by vlad902** [comment]
> Can we keep the equality `cycleGraph (n + 1) = circulantGraph {1}` as a lemma though (even if it's not defeq any more)

Done.

**Comment by b-mehta** [comment]
Thanks!

bors merge
